US08912180B2
60% Sodium hydride (394 mg) was suspended in 1,2-dimethoxyethane (20 mL), and tert-butyl 4-hydroxybenzylcarbamate (1 g) and 15-crown-5-ether (1.09 g) were added thereto, followed by stirring at room temperature for 30 minutes. 4,6-Dichloro-2-(methylsulfonyl)pyrimidine was added thereto, followed by stirring at 80° C. overnight. The reaction solution was cooled to room temperature and then an aqueous ammonium chloride solution (50 mL) was added thereto, followed by extraction with ethyl acetate. The extracts were washed with water and saturated brine, and the organic layer was dried over anhydrous magnesium sulfate. The desiccant was removed by filtration and the solvent was evaporated under reduced pressure. The residue was purified using silica gel column chromatography (hexane:ethyl acetate=95:5-85:15) to obtain tert-butyl{-4-[(4,6-dichloropyrimidin-2-yl)oxy]benzyl}carbamate (762 mg).

reactant | Sodium hydride | 394 mg | [H-].[Na+]
reactant | tert-butyl 4-hydroxybenzylcarbamate | 1 g | OC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C12H17NO3
reactant | 4,6-Dichloro-2-(methylsulfonyl)pyrimidine | ClC1=NC(=NC(=C1)Cl)S(=O)(=O)C | C5H4Cl2N2O2S
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
product | tert-butyl{-4-[(4,6-dichloropyrimidin-2-yl)oxy]benzyl}carbamate | 762 mg | C(C)(C)(C)OC(NCC1=CC=C(C=C1)OC1=NC(=CC(=N1)Cl)Cl)=O | C16H17Cl2N3O3
